US05877317
A mixture of 1-(2-chloroethyl)isochroman (LXIV, PREPARATION 2, 0.9874 g, 5.02 mmol), sodium cyanide (0.3793 g, 7.74 mmol), sodium iodide (a few mg) and DMF (5 ml) is heated overnight at 856. Additional sodium cyanide (0.5826 g, 11.9 mmol) is then added in two portions, along with DMF (14 ml) and a few mgs of sodium iodide. The mixture is heated at 97° for another two days and then cooled and poured into water. The mixture is extracted several times with ethyl acetate and the combined organic phase is backwashed twice with water, followed by two saline washes, then dried over magnesium sulfate and concentrated to dryness. The crude product is chromatographed on silica gel eluting with ethyl acetate/hexane (10/90). The appropriate fractions are pooled and concentrated to give 1-(2-cyanoethyl)isochroman (LXVI), NMR (CDCl3) 2.11, 2.27-2.72, 2.98, 3.77, 4.13, 4.86 and 7.17 δ.

reactant | 1-(2-chloroethyl)isochroman | 5.02 mmol, 0.9874 g | ClCCC1OCCC2=CC=CC=C12 | C11H13ClO
reactant | sodium cyanide | 7.74 mmol, 0.3793 g | [C-]#N.[Na+]
reactant | sodium iodide | [I-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | sodium cyanide | 11.9 mmol, 0.5826 g | [C-]#N.[Na+]
reactant | DMF | 14 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(2-cyanoethyl)isochroman | C(#N)CCC1OCCC2=CC=CC=C12 | C12H13NO
